US08470035B2
First, 9 g of triiodophenol was dissolved in 150 mL dichloromethane under argon. Then, 3.15 mL of pentenoyl chloride was added while stirring. Triethylamine was then added slowly and stirred for 4 hr. The solution was washed with 100 mL of water and evaporated to dryness, leaving 2,4,6-triiodophenyl penta-4-enoate.

reactant | triiodophenol | 9 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | pentenoyl chloride | 3.15 mL | C(C=CCC)(=O)Cl | C5H7ClO
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2,4,6-triiodophenyl penta-4-enoate | C(CCC=C)(=O)OC1=C(C=C(C=C1I)I)I | C11H9I3O2
